US04753934
(c) 5-(4-Chlorophenyl)-3-(3,4-dimethoxyphenyl)-2-methyl-penta-2,4-diene-1-carboxylic acid morpholide
5.38 g (15 mmols) of 5-(4-chlorophenyl)-3-(3,4-dimethoxyphenyl)-2-methyl-penta-2,4-diene-1-carboxylic acid were dissolved in 30 ml of absolute tetrahydrofuran, and 3.24 g (20 mmols) of 1,1'-carbonyldiimidazole were added in portions thereto. After the evolution of CO2 had ended, 1.74 (20 mmols) of morpholine were added, the mixture was allowed to stand at room temperature for 10 minutes and was then refluxed for 2 hours. The solution was evaporated in vacuo, and the residue was shaken with toluene/water. The toluene phase was again washed with water, then dried and concentrated down to about 20 ml in vacuo. This solution was purified on a chromatography column charged with 30 g of silica gel mixed with toluene. Elution was carried out first with toluene and then with a toluene-acetone mixture (90:10). The fractions containing the substance with an Rf 0.52 (toluene/acetone 70:30 on silica gel plate) were collected and evaporated in vacuo.

reactant | 5-(4-chlorophenyl)-3-(3,4-dimethoxyphenyl)-2-methyl-penta-2,4-diene-1-carboxylic acid | 15 mmols, 5.38 g | ClC1=CC=C(C=C1)C=CC(=C(CC(=O)O)C)C1=CC(=C(C=C1)OC)OC | C21H21ClO4
reactant | 1,1'-carbonyldiimidazole | 20 mmols, 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-(4-Chlorophenyl)-3-(3,4-dimethoxyphenyl)-2-methyl-penta-2,4-diene-1-carboxylic acid morpholide | ClC1=CC=C(C=C1)C=CC(=C(CC(=O)N1CCOCC1)C)C1=CC(=C(C=C1)OC)OC | C25H28ClNO4
